US05225425
5-Methyl-3-[[3-[[4-(tetradecyloxy)benzoyl]amino]phenyl]methyl]thiazolium bromide
A mixture of 4 g of N-[3-(bromomethyl) phenyl]-4-(tetradecyloxy)benzamide and 3.95 g of 5-methylthiazole in 50 ml of toluene is refluxed under argon for 4 hours. The solvent is removed and ether added to the residue. The solid is collected by centrifugation and washed several times with ether then vacuum dried to give 4.4 g of the desired product as a white powder, m.p. 188°-192° C.

reactant | N-[3-(bromomethyl) phenyl]-4-(tetradecyloxy)benzamide | 4 g | BrCC=1C=C(C=CC1)NC(C1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C28H40BrNO2
reactant | 5-methylthiazole | 3.95 g | CC1=CN=CS1 | C4H5NS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-3-[[3-[[4-(tetradecyloxy)benzoyl]amino]phenyl]methyl]thiazolium bromide | 4.4 g | [Br-].CC1=C[N+](=CS1)CC1=CC(=CC=C1)NC(C1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | InChI=1S/C32H44N2O2S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-22-36-31-20-18-29(19-21-31)32(35)33-30-17-15-16-28(23-30)25-34-24-27(2)37-26-34;/h15-21,23-24,26H,3-14,22,25H2,1-2H3;1H
